### PR TITLE
[Merged by Bors] - feat: port NumberTheory.Primorial

### PR DESCRIPTION
**Pull request by xroblot**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Primorial.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+    disjoint_filter_filter <| Ico_disjoint_Ico_consecutive _ _ _]
+#align primorial_add primorial_add
+
+theorem primorial_add_dvd {m n : ℕ} (h : n ≤ m) : (m + n)# ∣ m# * choose (m + n) m :=
+  calc
+    (m + n)# = m# * ∏ p in filter Nat.Prime (Ico (m + 1) (m + n + 1)), p := primorial_add _ _
+    _ ∣ m# * choose (m + n) m :=
+      mul_dvd_mul_left _ <|
+        prod_primes_dvd _ (fun k hk ↦ (mem_filter.1 hk).2.prime) fun p hp ↦
+          by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Primorial.lean:68]:
```suggestion
        prod_primes_dvd _ (fun k hk ↦ (mem_filter.1 hk).2.prime) fun p hp ↦ by
```

File: Mathlib/NumberTheory/Primorial.lean [hunk 2]
```diff
@@ -0,0 +1,102 @@
...
+  · rcases m.eq_zero_or_pos with (rfl | hm)
+    · decide
+    calc
+      (m + m + 1)# = (m + 1 + m)# := by rw [add_right_comm]
+      _ ≤ (m + 1)# * choose (m + 1 + m) (m + 1) := primorial_add_le m.le_succ
+      _ = (m + 1)# * choose (2 * m + 1) m := by rw [choose_symm_add, two_mul, add_right_comm]
+      _ ≤ 4 ^ (m + 1) * 4 ^ m :=
+        mul_le_mul' (ihn _ <| succ_lt_succ <| (lt_add_iff_pos_left _).2 hm) (choose_middle_le_pow _)
+      _ ≤ 4 ^ (m + m + 1) := by rw [← pow_add, add_right_comm]
+
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Primorial.lean:93]:
```suggestion
```

File: Mathlib/NumberTheory/Primorial.lean [hunk 3]
```diff
@@ -0,0 +1,102 @@
...
+  · rcases Decidable.eq_or_ne n 1 with (rfl | hn)
+    · decide
+    ·
+      calc
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Primorial.lean:97]:
```suggestion
    · calc
```

File: Mathlib/NumberTheory/Primorial.lean [hunk 4]
```diff
@@ -0,0 +1,102 @@
...
+        (n + 1)# = n# := primorial_succ hn ho
+        _ ≤ 4 ^ n := ihn n n.lt_succ_self
+        _ ≤ 4 ^ (n + 1) := pow_le_pow_of_le_right four_pos n.le_succ
+
+#align primorial_le_4_pow primorial_le_4_pow
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Primorial.lean:102]:
```suggestion
#align primorial_le_4_pow primorial_le_4_pow
```

File: Mathlib/NumberTheory/Primorial.lean [hunk 5]
```diff
@@ -0,0 +1,102 @@
...
+    (m + n)# = m# * ∏ p in filter Nat.Prime (Ico (m + 1) (m + n + 1)), p := primorial_add _ _
+    _ ∣ m# * choose (m + n) m :=
+      mul_dvd_mul_left _ <|
+        prod_primes_dvd _ (fun k hk ↦ (mem_filter.1 hk).2.prime) fun p hp ↦
+          by
+          rw [mem_filter, mem_Ico] at hp
+          exact
+            hp.2.dvd_choose_add hp.1.1 (h.trans_lt (m.lt_succ_self.trans_le hp.1.1))
+              (Nat.lt_succ_iff.1 hp.1.2)
+
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Primorial.lean:73]:
```suggestion
              (Nat.lt_succ_iff.1 hp.1.2)
```

File: Mathlib/NumberTheory/Primorial.lean [hunk 6]
```diff
@@ -0,0 +1,102 @@
...
+theorem primorial_add_dvd {m n : ℕ} (h : n ≤ m) : (m + n)# ∣ m# * choose (m + n) m :=
+  calc
+    (m + n)# = m# * ∏ p in filter Nat.Prime (Ico (m + 1) (m + n + 1)), p := primorial_add _ _
+    _ ∣ m# * choose (m + n) m :=
+      mul_dvd_mul_left _ <|
+        prod_primes_dvd _ (fun k hk ↦ (mem_filter.1 hk).2.prime) fun p hp ↦
+          by
+          rw [mem_filter, mem_Ico] at hp
+          exact
+            hp.2.dvd_choose_add hp.1.1 (h.trans_lt (m.lt_succ_self.trans_le hp.1.1))
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Primorial.lean:71]:
```suggestion
          exact hp.2.dvd_choose_add hp.1.1 (h.trans_lt (m.lt_succ_self.trans_le hp.1.1))
```

File: Mathlib/NumberTheory/Primorial.lean [hunk 7]
```diff
@@ -0,0 +1,97 @@
...
+  calc
+    (m + n)# = m# * ∏ p in filter Nat.Prime (Ico (m + 1) (m + n + 1)), p := primorial_add _ _
+    _ ∣ m# * choose (m + n) m :=
+      mul_dvd_mul_left _ <|
+        prod_primes_dvd _ (fun k hk ↦ (mem_filter.1 hk).2.prime) fun p hp ↦ by
+          rw [mem_filter, mem_Ico] at hp
+          exact hp.2.dvd_choose_add hp.1.1 (h.trans_lt (m.lt_succ_self.trans_le hp.1.1))
+              (Nat.lt_succ_iff.1 hp.1.2)
+
+#align primorial_add_dvd primorial_add_dvd
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Primorial.lean:72]:
```suggestion
              (Nat.lt_succ_iff.1 hp.1.2)
#align primorial_add_dvd primorial_add_dvd
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
